US05571825
A slurry of ρ-toluenesulfonic acid monohydrate (108 mg, 0.57 mmol) and activated 3 Å molecular sieves (300-500 mg) in 4 mL of toluene is stirred for 15 minutes. Methyl thioglycolate (265 mg, 2.50 mmol ) is then added followed by 4,4'-difluoro-benzhydrol (Aldrich) (500 mg, 2.27 mmol). The reaction is stirred for 2.5 hours at room temperature followed by heating at 50°-60° C. for 45 minutes. The mixture is diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, brine and dried over magnesium sulfate. Chromatography on silica gel, eluting with a gradient of 10% ethyl acetate in hexane to 20% ethyl acetate in hexane, provides methyl [[bis-(4-fluorophenyl)methyl]thio]acetate as a yellow oil in 50% yield.

reactant | ρ-toluenesulfonic acid monohydrate | 0.57 mmol, 108 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Methyl thioglycolate | 2.50 mmol, 265 mg | C(CS)(=O)OC | C3H6O2S
reactant | 4,4'-difluoro-benzhydrol | 2.27 mmol, 500 mg | FC1=CC=C(C(C2=CC=C(C=C2)F)O)C=C1 | C13H10F2O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [[bis-(4-fluorophenyl)methyl]thio]acetate | 50% yield | FC1=CC=C(C=C1)C(SCC(=O)OC)C1=CC=C(C=C1)F | C16H14F2O2S
